US06489344B1
N-(2-{[4-(2,4-dichlorophenyl)-5-(hydroxymethyl)pyrimidin-2-yl]amino}ethyl)(tert-butoxy)carboxamide (372 mg, 0.90 mmol) was dissolved in 2 mL of anhdyrous trifluoroacetic acid and stirred at room temperature for 2 h. Evaporation of the solvent afforded {2-[(2-aminoethyl)amino]-4-(2,4-dichlorophenyl)pyrimidin-5-yl}methan-1-ol, as its trifluoracetate salt, in quantitative yield.

reactant | N-(2-{[4-(2,4-dichlorophenyl)-5-(hydroxymethyl)pyrimidin-2-yl]amino}ethyl)(tert-butoxy)carboxamide | 0.90 mmol, 372 mg | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1CO)NCCNC(=O)OC(C)(C)C | C18H22Cl2N4O3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {2-[(2-aminoethyl)amino]-4-(2,4-dichlorophenyl)pyrimidin-5-yl}methan-1-ol | quantitative yield | NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)CO | C13H14Cl2N4O
